US05112947
(3) H-Asn-Ala-Pro-Arg-OH acetate
150 mg of Z-Asn-Ala-Pro-Arg(NO2)-OBzl was reduced in the presence of palladium-carbon in the same manner as in Example 7-(4). The resulting product was purified by high-performance liquid chromatography at 12 ml/min.(flow rate), 0 to 10% (B) 20 min. linear gradient (A) (mobile phase), subjected to Dowex 1×2 (acetate type) treatment and freeze-dried to obtain the desired compound.

reactant | Z-Asn-Ala-Pro-Arg(NO2)-OBzl | 150 mg | N([C@@H](CC(N)=O)C(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OCC1=CC=CC=C1 | C33H43N9O10
catalyst | palladium-carbon | [C].[Pd]
product | H-Asn-Ala-Pro-Arg-OH acetate | N[C@@H](CC(N)=O)C(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)CCC1.CC(=O)O | InChI=1S/C18H32N8O6.C2H4O2/c1-9(24-14(28)10(19)8-13(20)27)16(30)26-7-3-5-12(26)15(29)25-11(17(31)32)4-2-6-23-18(21)22;1-2(3)4/h9-12H,2-8,19H2,1H3,(H2,20,27)(H,24,28)(H,25,29)(H,31,32)(H4,21,22,23);1H3,(H,3,4)/t9-,10-,11-,12-;/m0./s1
